US07960562B2
1-(3,5-Difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)ethanone and 3-(chlorosulfonyl)benzoyl chloride were heated under reflux in dioxane for 1 hour, followed by cooling. After dilution with ethyl acetate, the insoluble matter was separated by filtration. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography. This was further diluted with ethyl acetate, washed with an aqueous saturated sodium hydrogencarbonate solution and water successively, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]benzenesulfonyl chloride.

reactant | 1-(3,5-Difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)ethanone | FC=1C=C(C=C(C1)F)C(C=C1NC2=C(N1)C=CC=C2)=O | C15H10F2N2O
reactant | 3-(chlorosulfonyl)benzoyl chloride | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[3-(3,5-difluorophenyl)-2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxopropanoyl]benzenesulfonyl chloride | FC=1C=C(C=C(C1)F)C(C(C(=O)C=1C=C(C=CC1)S(=O)(=O)Cl)=C1NC2=C(N1)C=CC=C2)=O | C22H13ClF2N2O4S
